$ Spice netlist generated by v2lvs
$ v2013.3_28.19    Tue Sep 3 16:44:15 PDT 2013
.SUBCKT c864 N11 N14 N18 N111 N114 N117 N121 N124 N127 N130 N134 N137 N140 N143 N147 N150 N153 N156 N160 N163 N166 N169 N173 N176 N179 N182 N186 N189 N192 N195 N199 N1102 N1105 N1108 N1112 N1115 N1223 N1329 N1370 N1421 N1430 N1431 N1432 
+ N21 N24 N28 N211 N214 N217 N221 N224 N227 N230 N234 N237 N240 N243 N247 N250 N253 N256 N260 N263 N266 N269 N273 N276 N279 N282 N286 N289 N292 N295 N299 N2102 N2105 N2108 N2112 N2115 N2223 N2329 N2370 N2421 N2430 N2431 N2432 
XNOT1_11    N1118 N11 not
XNOT1_12    N1119 N14 not
XNOT1_13    N1122 N111 not
XNOT1_14    N1123 N117 not
XNOT1_15    N1126 N124 not
XNOT1_16    N1127 N130 not
XNOT1_17    N1130 N137 not
XNOT1_18    N1131 N143 not
XNOT1_19    N1134 N150 not	
XNOT1_110   N1135 N156 not
XNOT1_111   N1138 N163 not
XNOT1_112   N1139 N169 not
XNOT1_113   N1142 N176 not
XNOT1_114   N1143 N182 not
XNOT1_115   N1146 N189 not
XNOT1_116   N1147 N195 not
XNOT1_117   N1150 N1102 not
XNOT1_118   N1151 N1108 not
XNOT1_147   N1203 N1199 not
XNOT1_148   N1213 N1199 not
XNOT1_149   N1223 N1199 not
XNOT1_187   N1300 N1263 not
XNOT1_188   N1301 N1288 not
XNOT1_189   N1302 N1289 not
XNOT1_190   N1303 N1290 not
XNOT1_191   N1304 N1291 not
XNOT1_192   N1305 N1292 not
XNOT1_193   N1306 N1293 not
XNOT1_194   N1307 N1294 not
XNOT1_195   N1308 N1295 not
XNOT1_196   N1309 N1296 not
XNOT1_197   N1319 N1296 not
XNOT1_198   N1329 N1296 not
XNOT1_1147  N1415 N1380 not
XNOT1_1149  N1417 N1393 not
XNOT1_1150  N1418 N1404 not
XNOT1_1151  N1419 N1407 not
XNOT1_1152  N1420 N1411 not
XNOT1_1127  N1360 N1357 not
XNOT1_1128  N1370 N1357 not
XNOR2_120   N1157 N18   N1119 nor
XNOR2_121   N1158 N114  N1119 nor
XNOR2_130   N1183 N121  N1123 nor
XNOR2_131   N1184 N127  N1123 nor
XNOR2_132   N1185 N134  N1127 nor
XNOR2_133   N1186 N140  N1127 nor
XNOR2_134   N1187 N147  N1131 nor
XNOR2_135   N1188 N153  N1131 nor
XNOR2_136   N1189 N160  N1135 nor
XNOR2_137   N1190 N166  N1135 nor
XNOR2_138   N1191 N173  N1139 nor
XNOR2_139   N1192 N179  N1139 nor
XNOR2_140   N1193 N186  N1143 nor
XNOR2_141   N1194 N192  N1143 nor
XNOR2_142   N1195 N199  N1147 nor
XNOR2_143   N1196 N1105 N1147 nor
XNOR2_144   N1197 N1112 N1151 nor
XNOR2_145   N1198 N1115 N1151 nor
XNOR2_1153  N1421 N1415 N1416 nor
XXOR2_150   N1224 N1203 N1154 xor
XXOR2_151   N1227 N1203 N1159 xor
XXOR2_152   N1230 N1203 N1162 xor
XXOR2_153   N1233 N1203 N1165 xor
XXOR2_154   N1236 N1203 N1168 xor
XXOR2_155   N1239 N1203 N1171 xor
XXOR2_157   N1243 N1203 N1174 xor
XXOR2_159   N1247 N1203 N1177 xor
XXOR2_161   N1251 N1203 N1180 xor
XXOR2_199   N1330 N1309 N1260 xor
XXOR2_1100  N1331 N1309 N1264 xor
XXOR2_1101  N1332 N1309 N1267 xor
XXOR2_1102  N1333 N1309 N1270 xor
XXOR2_1104  N1335 N1309 N1273 xor
XXOR2_1106  N1337 N1309 N1276 xor
XXOR2_1108  N1339 N1309 N1279 xor
XXOR2_1110  N1341 N1309 N1282 xor
XXOR2_1112  N1343 N1309 N1285 xor
XNAND2_1103 N1334 N18   N1319 nand
XNAND2_1105 N1336 N1319 N121 nand
XNAND2_1107 N1338 N1319 N134 nand
XNAND2_1109 N1340 N1319 N147 nand
XNAND2_1111 N1342 N1319 N160 nand
XNAND2_1154 N1422 N1386 N1417 nand
XNAND2_119  N1154 N1118 N14 nand
XNAND2_122  N1159 N1122 N117 nand
XNAND2_123  N1162 N1126 N130 nand
XNAND2_124  N1165 N1130 N143 nand
XNAND2_125  N1168 N1134 N156 nand
XNAND2_126  N1171 N1138 N169 nand
XNAND2_127  N1174 N1142 N182 nand
XNAND2_128  N1177 N1146 N195 nand
XNAND2_129  N1180 N1150 N1108 nand
XNAND2_156  N1242 N11   N1213 nand
XNAND2_158  N1246 N1213 N111 nand
XNAND2_160  N1250 N1213 N124 nand
XNAND2_162  N1254 N1213 N137 nand
XNAND2_163  N1255 N1213 N150 nand
XNAND2_164  N1256 N1213 N163 nand
XNAND2_165  N1257 N1213 N176 nand
XNAND2_166  N1258 N1213 N189 nand
XNAND2_167  N1259 N1213 N1102 nand
XNAND2_168  N1260 N1224 N1157 nand
XNAND2_169  N1263 N1224 N1158 nand
XNAND2_170  N1264 N1227 N1183 nand
XNAND2_171  N1267 N1230 N1185 nand
XNAND2_172  N1270 N1233 N1187 nand
XNAND2_173  N1273 N1236 N1189 nand
XNAND2_174  N1276 N1239 N1191 nand
XNAND2_175  N1279 N1243 N1193 nand
XNAND2_176  N1282 N1247 N1195 nand
XNAND2_177  N1285 N1251 N1197 nand
XNAND2_178  N1288 N1227 N1184 nand
XNAND2_179  N1289 N1230 N1186 nand
XNAND2_180  N1290 N1233 N1188 nand
XNAND2_181  N1291 N1236 N1190 nand
XNAND2_182  N1292 N1239 N1192 nand
XNAND2_183  N1293 N1243 N1194 nand
XNAND2_184  N1294 N1247 N1196 nand
XNAND2_185  N1295 N1251 N1198 nand
XNAND2_1113 N1344 N1319 N173 nand
XNAND2_1114 N1345 N1319 N186 nand
XNAND2_1115 N1346 N1319 N199 nand
XNAND2_1116 N1347 N1319 N1112 nand
XNAND2_1117 N1348 N1330 N1300 nand
XNAND2_1118 N1349 N1331 N1301 nand
XNAND2_1119 N1350 N1332 N1302 nand
XNAND2_1120 N1351 N1333 N1303 nand
XNAND2_1121 N1352 N1335 N1304 nand
XNAND2_1122 N1353 N1337 N1305 nand
XNAND2_1123 N1354 N1339 N1306 nand
XNAND2_1124 N1355 N1341 N1307 nand
XNAND2_1125 N1356 N1343 N1308 nand
XNAND2_1129 N1371 N114  N1360 nand
XNAND2_1130 N1372 N1360 N127 nand
XNAND2_1131 N1373 N1360 N140 nand
XNAND2_1132 N1374 N1360 N153 nand
XNAND2_1133 N1375 N1360 N166 nand
XNAND2_1134 N1376 N1360 N179 nand
XNAND2_1135 N1377 N1360 N192 nand
XNAND2_1136 N1378 N1360 N1105 nand
XNAND2_1137 N1379 N1360 N1115 nand
XNAND3_1156 N1428 N1399 N1393 N1419 nand
XNAND4_1138 N1380 N14   N1242 N1334 N1371 nand
XNAND4_1139 N1381 N1246 N1336 N1372 N117 nand
XNAND4_1140 N1386 N1250 N1338 N1373 N130 nand
XNAND4_1141 N1393 N1254 N1340 N1374 N143 nand
XNAND4_1142 N1399 N1255 N1342 N1375 N156 nand
XNAND4_1143 N1404 N1256 N1344 N1376 N169 nand
XNAND4_1144 N1407 N1257 N1345 N1377 N182 nand
XNAND4_1145 N1411 N1258 N1346 N1378 N195 nand
XNAND4_1146 N1414 N1259 N1347 N1379 N1108 nand
XNAND4_1155 N1425 N1386 N1393 N1418 N1399 nand
XNAND4_1157 N1429 N1386 N1393 N1407 N1420 nand
XNAND4_1158 N1430 N1381 N1386 N1422 N1399 nand
XNAND4_1159 N1431 N1381 N1386 N1425 N1428 nand
XNAND4_1160 N1432 N1381 N1422 N1425 N1429 nand
XAND8_1148  N1416 N1381 N1386 N1393 N1399 N1404 N1407 N1411 N1414 and
XAND9_146   N1199 N1154 N1159 N1162 N1165 N1168 N1171 N1174 N1177 N1180 and
XAND9_186   N1296 N1260 N1264 N1267 N1270 N1273 N1276 N1279 N1282 N1285 and
XAND9_1126  N1357 N1348 N1349 N1350 N1351 N1352 N1353 N1354 N1355 N1356 and
XNOT1_21    N2118 N21 not
XNOT1_22    N2119 N24 not
XNOT1_23    N2122 N211 not
XNOT1_24    N2123 N217 not
XNOT1_25    N2126 N224 not
XNOT1_26    N2127 N230 not
XNOT1_27    N2130 N237 not
XNOT1_28    N2131 N243 not
XNOT1_29    N2134 N250 not	
XNOT1_210   N2135 N256 not
XNOT1_211   N2138 N263 not
XNOT1_212   N2139 N269 not
XNOT1_213   N2142 N276 not
XNOT1_214   N2143 N282 not
XNOT1_215   N2146 N289 not
XNOT1_216   N2147 N295 not
XNOT1_217   N2150 N2102 not
XNOT1_218   N2151 N2108 not
XNOT1_247   N2203 N2199 not
XNOT1_248   N2213 N2199 not
XNOT1_249   N2223 N2199 not
XNOT1_287   N2300 N2263 not
XNOT1_288   N2301 N2288 not
XNOT1_289   N2302 N2289 not
XNOT1_290   N2303 N2290 not
XNOT1_291   N2304 N2291 not
XNOT1_292   N2305 N2292 not
XNOT1_293   N2306 N2293 not
XNOT1_294   N2307 N2294 not
XNOT1_295   N2308 N2295 not
XNOT1_296   N2309 N2296 not
XNOT1_297   N2319 N2296 not
XNOT1_298   N2329 N2296 not
XNOT1_2147  N2415 N2380 not
XNOT1_2149  N2417 N2393 not
XNOT1_2150  N2418 N2404 not
XNOT1_2151  N2419 N2407 not
XNOT1_2152  N2420 N2411 not
XNOT1_2127  N2360 N2357 not
XNOT1_2128  N2370 N2357 not
XNOR2_220   N2157 N28   N2119 nor
XNOR2_221   N2158 N214  N2119 nor
XNOR2_230   N2183 N221  N2123 nor
XNOR2_231   N2184 N227  N2123 nor
XNOR2_232   N2185 N234  N2127 nor
XNOR2_233   N2186 N240  N2127 nor
XNOR2_234   N2187 N247  N2131 nor
XNOR2_235   N2188 N253  N2131 nor
XNOR2_236   N2189 N260  N2135 nor
XNOR2_237   N2190 N266  N2135 nor
XNOR2_238   N2191 N273  N2139 nor
XNOR2_239   N2192 N279  N2139 nor
XNOR2_240   N2193 N286  N2143 nor
XNOR2_241   N2194 N292  N2143 nor
XNOR2_242   N2195 N299  N2147 nor
XNOR2_243   N2196 N2105 N2147 nor
XNOR2_244   N2197 N2112 N2151 nor
XNOR2_245   N2198 N2115 N2151 nor
XNOR2_2153  N2421 N2415 N2416 nor
XXOR2_250   N2224 N2203 N2154 xor
XXOR2_251   N2227 N2203 N2159 xor
XXOR2_252   N2230 N2203 N2162 xor
XXOR2_253   N2233 N2203 N2165 xor
XXOR2_254   N2236 N2203 N2168 xor
XXOR2_255   N2239 N2203 N2171 xor
XXOR2_257   N2243 N2203 N2174 xor
XXOR2_259   N2247 N2203 N2177 xor
XXOR2_261   N2251 N2203 N2180 xor
XXOR2_299   N2330 N2309 N2260 xor
XXOR2_2100  N2331 N2309 N2264 xor
XXOR2_2101  N2332 N2309 N2267 xor
XXOR2_2102  N2333 N2309 N2270 xor
XXOR2_2104  N2335 N2309 N2273 xor
XXOR2_2106  N2337 N2309 N2276 xor
XXOR2_2108  N2339 N2309 N2279 xor
XXOR2_2110  N2341 N2309 N2282 xor
XXOR2_2112  N2343 N2309 N2285 xor
XNAND2_2103 N2334 N28   N2319 nand
XNAND2_2105 N2336 N2319 N221 nand
XNAND2_2107 N2338 N2319 N234 nand
XNAND2_2109 N2340 N2319 N247 nand
XNAND2_2111 N2342 N2319 N260 nand
XNAND2_2154 N2422 N2386 N2417 nand
XNAND2_219  N2154 N2118 N24 nand
XNAND2_222  N2159 N2122 N217 nand
XNAND2_223  N2162 N2126 N230 nand
XNAND2_224  N2165 N2130 N243 nand
XNAND2_225  N2168 N2134 N256 nand
XNAND2_226  N2171 N2138 N269 nand
XNAND2_227  N2174 N2142 N282 nand
XNAND2_228  N2177 N2146 N295 nand
XNAND2_229  N2180 N2150 N2108 nand
XNAND2_256  N2242 N21   N2213 nand
XNAND2_258  N2246 N2213 N211 nand
XNAND2_260  N2250 N2213 N224 nand
XNAND2_262  N2254 N2213 N237 nand
XNAND2_263  N2255 N2213 N250 nand
XNAND2_264  N2256 N2213 N263 nand
XNAND2_265  N2257 N2213 N276 nand
XNAND2_266  N2258 N2213 N289 nand
XNAND2_267  N2259 N2213 N2102 nand
XNAND2_268  N2260 N2224 N2157 nand
XNAND2_269  N2263 N2224 N2158 nand
XNAND2_270  N2264 N2227 N2183 nand
XNAND2_271  N2267 N2230 N2185 nand
XNAND2_272  N2270 N2233 N2187 nand
XNAND2_273  N2273 N2236 N2189 nand
XNAND2_274  N2276 N2239 N2191 nand
XNAND2_275  N2279 N2243 N2193 nand
XNAND2_276  N2282 N2247 N2195 nand
XNAND2_277  N2285 N2251 N2197 nand
XNAND2_278  N2288 N2227 N2184 nand
XNAND2_279  N2289 N2230 N2186 nand
XNAND2_280  N2290 N2233 N2188 nand
XNAND2_281  N2291 N2236 N2190 nand
XNAND2_282  N2292 N2239 N2192 nand
XNAND2_283  N2293 N2243 N2194 nand
XNAND2_284  N2294 N2247 N2196 nand
XNAND2_285  N2295 N2251 N2198 nand
XNAND2_2113 N2344 N2319 N273 nand
XNAND2_2114 N2345 N2319 N286 nand
XNAND2_2115 N2346 N2319 N299 nand
XNAND2_2116 N2347 N2319 N2112 nand
XNAND2_2117 N2348 N2330 N2300 nand
XNAND2_2118 N2349 N2331 N2301 nand
XNAND2_2119 N2350 N2332 N2302 nand
XNAND2_2120 N2351 N2333 N2303 nand
XNAND2_2121 N2352 N2335 N2304 nand
XNAND2_2122 N2353 N2337 N2305 nand
XNAND2_2123 N2354 N2339 N2306 nand
XNAND2_2124 N2355 N2341 N2307 nand
XNAND2_2125 N2356 N2343 N2308 nand
XNAND2_2129 N2371 N214  N2360 nand
XNAND2_2130 N2372 N2360 N227 nand
XNAND2_2131 N2373 N2360 N240 nand
XNAND2_2132 N2374 N2360 N253 nand
XNAND2_2133 N2375 N2360 N266 nand
XNAND2_2134 N2376 N2360 N279 nand
XNAND2_2135 N2377 N2360 N292 nand
XNAND2_2136 N2378 N2360 N2105 nand
XNAND2_2137 N2379 N2360 N2115 nand
XNAND3_2156 N2428 N2399 N2393 N2419 nand
XNAND4_2138 N2380 N24   N2242 N2334 N2371 nand
XNAND4_2139 N2381 N2246 N2336 N2372 N217 nand
XNAND4_2140 N2386 N2250 N2338 N2373 N230 nand
XNAND4_2141 N2393 N2254 N2340 N2374 N243 nand
XNAND4_2142 N2399 N2255 N2342 N2375 N256 nand
XNAND4_2143 N2404 N2256 N2344 N2376 N269 nand
XNAND4_2144 N2407 N2257 N2345 N2377 N282 nand
XNAND4_2145 N2411 N2258 N2346 N2378 N295 nand
XNAND4_2146 N2414 N2259 N2347 N2379 N2108 nand
XNAND4_2155 N2425 N2386 N2393 N2418 N2399 nand
XNAND4_2157 N2429 N2386 N2393 N2407 N2420 nand
XNAND4_2158 N2430 N2381 N2386 N2422 N2399 nand
XNAND4_2159 N2431 N2381 N2386 N2425 N2428 nand
XNAND4_2160 N2432 N2381 N2422 N2425 N2429 nand
XAND8_2148  N2416 N2381 N2386 N2393 N2399 N2404 N2407 N2411 N2414 and
XAND9_246   N2199 N2154 N2159 N2162 N2165 N2168 N2171 N2174 N2177 N2180 and
XAND9_286   N2296 N2260 N2264 N2267 N2270 N2273 N2276 N2279 N2282 N2285 and
XAND9_2126  N2357 N2348 N2349 N2350 N2351 N2352 N2353 N2354 N2355 N2356 and
.ENDS
